US07671221B2
MeSO4 (26.3 mL, 0.280 mol) was added to a solution of 2-amino-5-bromobenzoic acid (50.0 g, 0.230 mol) in DMF and Et3N (40 mL, 0.28 mol). The reaction mixture was stirred at rt for 48 h. The mixture was quenched with water, extracted with EtOAc and dried over MgSO4. The solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel (5% EtOAc in petroleum ether) to afford methyl 2-amino-5-bromobenzoate (30 g, 56% yield). 1H NMR (300 MHz, DMSO) δ 7.74 (d, J=2.7, 1H), 7.35 (dd, J=9.0, 2.1, 1H), 6.78-6.73 (m, 3H), 3.77 (s, 3H).

reactant | MeSO4 | 0.280 mol, 26.3 mL | COS(=O)(=O)[O-]
reactant | 2-amino-5-bromobenzoic acid | 0.230 mol, 50.0 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | Et3N | 0.28 mol, 40 mL | CCN(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-amino-5-bromobenzoate | 30 g, 56% yield | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
